US05994602
A2. Preparation of 1-hexyl-3-methyl Imidazolium Chloride
Dry 1-methylimidazole (9.03 g, 0.11 mol) was mixed with 1-chlorohexane (12.06 g, 0.1 mol) and placed in a Corius tube inside a dry box. The Corius tube was then closed using a super seal in the dry box and sealed under vacuum. The two components formed two layers, inside the Corius tube, and this mixture was heated at 100° C. for a week. The resulting product was allowed to cool to room temperature when it formed a viscous product. The viscous product was transferred from the dry box to a Schlenk round bottomed flask where it was left under vacuum for 4 hours to form a viscous liquid.

reactant | 1-methylimidazole | 0.11 mol, 9.03 g | CN1C=NC=C1 | C4H6N2
reactant | 1-chlorohexane | 0.1 mol, 12.06 g | ClCCCCCC | C6H13Cl
product | 1-hexyl-3-methyl Imidazolium Chloride | [Cl-].C(CCCCC)[N+]1=CN(C=C1)C | InChI=1S/C10H19N2.ClH/c1-3-4-5-6-7-12-9-8-11(2)10-12;/h8-10H,3-7H2,1-2H3;1H/q+1;/p-1
